US07482354B2
Ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B00-X00-M00(C01)-D01]
16.00 g (0.06 mol) of ethyl-6-[(dimethylamino)methylene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate were dissolved in 600 mL of ethanol and 3.90 g of sodium ethylate, and 5.44 g of guanidine hydrochloride were added consecutively. The solution was stirred at reflux for 12 hours. The solvent was then evaporated, the residue redissolved with dichloromethane and washed with water. The organic layer was then dried over anhydrous Na2SO4 and concentrated. The residue was triturated with diethyl ether and the product collected by filtration (85% yield as a white solid).

reactant | ethyl-6-[(dimethylamino)methylene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 0.06 mol, 16.00 g | C(C)OC(=O)C1=NN(C=2C(C(CCC12)=CN(C)C)=O)C | C14H19N3O3
reactant | guanidine hydrochloride | 5.44 g | Cl.NC(=N)N
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | sodium ethylate | 3.90 g | CC[O-].[Na+]
product | Ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 85% yield | NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C13H13N5O2
